US07576215B2
3-BENZYL-4-[3-(4-METHOXYPHENOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLINE
[2-amino-3-(trifluoromethyl)phenyl][3-(4-methoxyphenoxy)phenyl]methanone: The title compound was prepared from (2-fluoro-3-trifluoromethylphenyl)-[3-(4-methoxy-phenoxy)-phenyl]methanone (0.64 g, 0.0015 mole) following the procedure of Example 457, Step 3: MS (ESI) m/z 388;

reactant | [2-amino-3-(trifluoromethyl)phenyl][3-(4-methoxyphenoxy)phenyl]methanone | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC(=CC=C1)OC1=CC=C(C=C1)OC | C21H16F3NO3
reactant | (2-fluoro-3-trifluoromethylphenyl)-[3-(4-methoxy-phenoxy)-phenyl]methanone | 0.0015 mole, 0.64 g | FC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC(=CC=C1)OC1=CC=C(C=C1)OC | C21H14F4O3
product | 3-BENZYL-4-[3-(4-METHOXYPHENOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OC1=CC=C(C=C1)OC)C(F)(F)F | C30H22F3NO2
